US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[3-(2-naphthalenyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (31.5 mg, 0.113 mmol) and 2-[(3-bromopropyl)oxy]naphthalene (45.5 mg, 0.172 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (47.5 mg, 77%). EI-MS m/z 464 (M+) Rt (2.0 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.113 mmol, 31.5 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 2-[(3-bromopropyl)oxy]naphthalene | 0.172 mmol, 45.5 mg | BrCCCOC1=CC2=CC=CC=C2C=C1 | C13H13BrO
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[3-(2-naphthalenyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide | 47.5 mg, 77% | [Br-].OC(C12CC[N+](CC1)(C2)CCCOC2=CC1=CC=CC=C1C=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C32H34NO2.BrH/c34-32(28-12-3-1-4-13-28,29-14-5-2-6-15-29)31-18-21-33(25-31,22-19-31)20-9-23-35-30-17-16-26-10-7-8-11-27(26)24-30;/h1-8,10-17,24,34H,9,18-23,25H2;1H/q+1;/p-1
